US08871758B2
(S)-3-(2-Chlorophenyl)-3-(5,5,6,6-tetramethyl-4,4-dioxo-5,6-dihydro-4H-4lambda*6*-1,4,3-oxathiazin-2-ylamino)propionic acid methyl ester
200 mg of 5,5,6,6-tetramethyl-2-(4-nitrophenoxy)-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide and 130 mg of methyl (S)-3-amino-3-(2-chlorophenyl)propionate were dissolved in 5 ml of dichloromethane and 0.52 ml of N,N-diisopropylethylamine, and the mixture was stirred at room temperature for 16 hours. Subsequently, the reaction solution was diluted with 20 ml of dichloromethane and washed repeatedly with 20 ml of 25% aqueous ammonia solution, until the organic phase was colorless. The organic phase was dried over Na2SO4 and concentrated by rotary evaporation. This gave the product (191 mg) with a molecular weight of 402.9 g/mol (C17H23ClN2O5S); MS (ESI): m/e=403 (M+H+).

reactant | 5,5,6,6-tetramethyl-2-(4-nitrophenoxy)-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide | 200 mg | CC1(S(N=C(OC1(C)C)OC1=CC=C(C=C1)[N+](=O)[O-])(=O)=O)C | C13H16N2O6S
reactant | methyl (S)-3-amino-3-(2-chlorophenyl)propionate | 130 mg | N[C@@H](CC(=O)OC)C1=C(C=CC=C1)Cl | C10H12ClNO2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | N,N-diisopropylethylamine | 0.52 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (S)-3-(2-Chlorophenyl)-3-(5,5,6,6-tetramethyl-4,4-dioxo-5,6-dihydro-4H-4lambda*6*-1,4,3-oxathiazin-2-ylamino)propionic acid methyl ester | 191 mg | COC(C[C@H](NC=1OC(C(S(N1)(=O)=O)(C)C)(C)C)C1=C(C=CC=C1)Cl)=O | C17H23ClN2O5S
